US07696202B2
1-(6-azido-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol was dissolved in a mixture of tetrahydrofuran (200 mL) and methanol (20 mL). To the solution was added 10% palladium on carbon (2 g) and the reaction was stirred under an atmosphere of hydrogen for 24 hours. The reaction was then filtered through celite and evaporated to give 1-(6-amino-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol (2.0 g).

reactant | 1-(6-azido-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol | N(=[N+]=[N-])C1=CC(=NC(=N1)N1CCOCC1)OCC(C)(O)C | C12H18N6O3
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | 1-(6-amino-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol | 2.0 g | NC1=CC(=NC(=N1)N1CCOCC1)OCC(C)(O)C | C12H20N4O3
